US04246406
Preparation of 3,5-Diamino-6-chloro-N-[(3-pyridylamino)aminomethylene]-2-pyrazinecarboxamide hemihydrate
1-(3,5-Diamino-6-chloropyrazinoyl)-2-methyl-2-thiopseudourea hydroiodide (970 mg., 0.0025 mole) is added to a solution of 3-aminopyridine (940 mg., 0.01 mole) in dry tetrahydrofuran (20 ml.) and the mixture is heated at reflux for 2 hours, then added to crushed ice-water (200 ml.) to precipitate 423 mg. of 3,5-diamino-6-chloro-N-[(3-pyridylamino)aminomethylene]2-pyrazinecarboxamide hemihydrate, m.p. 220°-2° C.

reactant | 1-(3,5-Diamino-6-chloropyrazinoyl)-2-methyl-2-thiopseudourea hydroiodide | 0.0025 mole, 970 mg | I.NC=1C(=NC(=C(N1)N)Cl)C(=O)NC(SC)=N
reactant | 3-aminopyridine | 0.01 mole, 940 mg | NC=1C=NC=CC1 | C5H6N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,5-Diamino-6-chloro-N-[(3-pyridylamino)aminomethylene]-2-pyrazinecarboxamide hemihydrate | O.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC=1C=NC=CC1.NC=1C(=NC(=C(N1)N)Cl)C(=O)N=CNNC=1C=NC=CC1 | InChI=1S/2C11H11ClN8O.H2O/c2*12-8-10(14)19-9(13)7(18-8)11(21)16-5-17-20-6-2-1-3-15-4-6;/h2*1-5,20H,(H4,13,14,19)(H,16,17,21);1H2
